Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / Chlorpromazine / Latex
 
Attending: ___.
 
Chief Complaint:
Gallbladder carcinoma
 
Major Surgical or Invasive Procedure:
___: Drainage and pigtail drain placement for abdominal fluid 
collection. (removed prior to discharge)
___: ERCP with Bare metal wall stent placement

 
History of Present Illness:
Mr ___ is a ___ year old male who
recently presented to ___ in ___ with a
2 weeks history of jaundice, nausea, some abdominal dyscomfort,
dark urine and light colored stools. A CT scan of the abdomen
revealed gallblader thickening, without stones. He underwent an
open cholecystectomy on ___ and was found to have 
gallbladder
carcinoma in frozen biopsies with extension to the portal area,
which was deemed to be unresectable and compressing the common
bile duct. The pathology came back in fact as gallbladder
carcinoma with periportal lymph nodes positive for carcinoma 
with
extracapsule extension. He was referred to Dr. ___ a 
second
opinion on his management. Notably, Mr ___ postoperatively
has been with nausea, unable to eat and with early satiety. He
has been also with continuous jaundice, but denies any fevers,
chills or night sweats. 

 
Past Medical History:
Past Medical History: 
Hypercholesterolemia
.
Past Surgical History: 
Bilateral knee replacements in ___
CCY and gallbladder fosa dissection ___

 
Social History:
___
Family History:
mother who died at age ___ of Alzheimer's disease.  His father 
died at age ___,
also of Alzheimer's disease. His grandparents died at a young 
age of unknown causes.
 
Physical Exam:
Vital Signs: 98.3 84 119/78 18 99/RA
General: No acute Distress, Jaundiced
Neuro: Awake, alert, cooperative with exam, normal affect,
oriented to person, place and date.
Lungs: Clear to Auscultation  bilaterally
Cardiac: Regular rate and rhythm, S1/S2
Abd: Soft, Nontender, nondistended. Has supraumbilical 
laparotomy
incision (healing well) and RUQ drain wound (healing well)
Extrem: Warm, well-perfused, palpable distal pulses in all 
distal
extremities

 
Pertinent Results:
On Admission: ___
WBC-9.2 RBC-3.68* Hgb-12.0* Hct-36.3* MCV-99* MCH-32.5* 
MCHC-32.9 RDW-14.1 Plt ___
UreaN-28* Creat-0.9 Na-140 K-4.9 Cl-101 HCO3-28 AnGap-16 
Glucose-111*
ALT-85* AST-56* AlkPhos-234* TotBili-9.8* Albumin-3.7
Calcium-8.4 Phos-3.4 Mg-2.3
CEA-2.5 AFP-2.3 CA ___ -126       
On Discharge ___ 
WBC-15.5* RBC-3.22* Hgb-10.2* Hct-30.4* MCV-94 MCH-31.5 
MCHC-33.4 RDW-14.1 Plt ___
Glucose-100 UreaN-20 Creat-0.7 Na-134 K-4.3 Cl-101 HCO3-26 
AnGap-11
ALT-49* AST-36 AlkPhos-175* TotBili-5.9* Albumin-2.9*
Calcium-8.0* Phos-2.6* Mg-2.___ y/o male seen by Dr ___ as transfer from ___ where he 
had been given diagnosis of unresectable gall bladder CA.
He had a CT done on day before admission which showed:
1. Fluid collection in the gallbladder fossa with extension of 
this fluid immediately surrounding the left hepatic lobe.
2. Mild intrahepatic biliary dilatation. 
3. Prominent portal lymph nodes and omental nodularity as
described. Given the surgical history of positive lymph nodes at
surgery, these are likely metastatic. 
4. 9 mm cystic lesion in uncinate process. Differential 
diagnosis
includes side branch IPMN versus small pseudocyst. 
He underwent CT guided drainage of the fluid collection and 
approximately 120 mL of yellow colored cloudy fluid was 
obtained, consistent with bile. An 8 ___ pigtail catheter was 
placed and significant fluid was drained until 4 days post 
placement, and when repeat CT demonstrated collapse and full 
drainage of that area, the drain was pulled prior to discharge.
On ___ the patient underwent an ERCP. This showed a single long 
and narrow stricture of malignant appearance that was 5 cm long 
was seen at the main duct, common hepatic duct, left main 
hepatic duct and right main hepatic duct. There was mild 
post-obstructive dilation of the intrahepatic branches. These 
findings are compatible with malignant biliary stricture. No 
further contrast was injected to evaluate for a bile leak given 
the narrow diameter of the stricture and conern for cholangitis. 
A sphincterotomy was performed in the 12 o'clock position using 
a sphincterotome over an existing guidewire. An uncovered metal 
60mm by 8mm WallFlex biliary stent (LOT# ___, REF# ___ 
was placed successfully across the bile duct stricture into an 
intrahepatic branch. 
The patient toleratd the procedure without complication. He 
received ___ antibiotics and continued some Unasyn as 
the bile culture from the drain placement grew gram positive 
cocci. This was d/c'd prior to discharge, but he was started on 
PO Cipro and ursodiol.
The patient will be set up with outpatient heme-onc.
He was tolerating diet, ambulating and had bowel function. His 
jaundice was markedly improved upon discharge.

 
Medications on Admission:
Lipitor (inactive), ASA (not taken today)
 
Discharge Medications:
1. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours).
Disp:*30 Tablet(s)* Refills:*2*
2. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO TID (3 times 
a day).
Disp:*90 Capsule(s)* Refills:*2*
3. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Outpatient Lab Work
AST, ALT, Alk Phos, T bili
Please fax results to Dr ___
___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Metastatic gallbladder CA

 
Discharge Condition:
Stable
A+Ox3
Ambulatory

 
Discharge Instructions:
Please call Dr ___ office at ___ for fever, chills, 
increasing yellowing of eyes or skin, itching of skin, loss of 
appetite, inability to take or keep down food, fluids or 
medications.
You are being started on Cipro, an antibiotic, and ursodiol, a 
bile thinner.
 
Followup Instructions:
___